US06730696B1
Lipid Derivatives of Ibuprofen (DP-Ibu)
The synthesized compounds were subjected to TLC analysis under the following conditions: Silica gel 60 on aluminum sheet. Eluent is chloroform:methanol:water (65:35:5, v/v). Indicator is a spray of the composition: 4-methoxybenzaldehyde (10 ml), absolute ethanol (200 ml), 98% sulfuric acid (10 ml) and glacial acetic acid (2 ml). The chromatogram is sprayed with the indicator and then charred at 100° C.

reactant | chloroform methanol water | C(Cl)(Cl)Cl.CO.O
reactant | 4-methoxybenzaldehyde | 10 ml | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | ethanol | 200 ml | C(C)O | C2H6O
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | Ibuprofen | OC(=O)C(C)C1=CC=C(CC(C)C)C=C1 | C13H18O2
